*-----------------------------------------------------------------------
* Filename:		EF86.inc  17/5/97 (Version 3)
* Simulator:		PSpice
* Device type:		Pentode
* Device model:		EF86
*
* Author:		Duncan Munro
* Date:			16/5/97
* Copyright:		(C)1997-2000 Duncan Amplification
*
* The following parameters are not modelled:
*
*   (1) Heater
*   (2) Grid current
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* Email queries to postmaster@duncanamps.com
*
* Pins   A  Anode
*        S  Screen
*        G  Grid
*        K  Cathode
*
*-----------------------------------------------------------------------

.SUBCKT EF86da A S G K

*
* Calculate reduction in mu when Vg < -3V
*
Emu	mu	0	VALUE={LIMIT{V(G,K),-3,999}+LIMIT{V(G,K)+3,-999,0}*0.714}
*
* Calculate contribution to cathode current
*
Eat	at	0	VALUE={0.636*ATAN(V(A,K)/15)}
Egs	gs	0	VALUE={LIMIT{V(S,K)/27.5+V(mu)*1.32+1,0,1E6}}
Egs2	gs2	0	VALUE={PWRS(V(gs),1.5)}
Ecath  	cc    	0 	VALUE={V(gs2)*V(at)}
*
* Calculate anode current
*
Ga     	A     	K     	VALUE={5.83E-4*V(cc)}
*
* Calculate screen current
*
Escrn	sc	0	VALUE={V(gs2)*(1.1-V(at))}
Gs     	S     	K	VALUE={0.5E-3*V(sc)}
*
* Capacitances
*
Cg1	G	K	3.8p
Cak	A	K	5.3p
Cg1a	G	A	0.05p

.ENDS
